US06794548B2
Accordingly, in the present invention, examples of such a material solution include a solution in which purified TBBP is dissolved in butylphenol or a mixed solvent of butylphenol and phenol (hereinafter referred to as a “purified TBBP solution”) and a reaction product which is produced by reacting phenol and isobutylene in the presence of aluminium phenoxide to produce 2,6-di-t-butylphenol and reacting the resulting reaction mixture as it is without isolating in the presence of an alkaline catalyst to produce TBBP containing the solvent (hereinafter referred to as a “crude TBBP solution.”)

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | isobutylene | CC(C)=C | C4H8
reactant | aluminium phenoxide | [O-]C1=CC=CC=C1.[Al+3].[O-]C1=CC=CC=C1.[O-]C1=CC=CC=C1
product | 2,6-di-t-butylphenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
